US06313107B1
4-Hydroxy phenyl acetic acid-t-butyl ester (Reagent E)
A stirred suspension of 4-hydroxy-phenyl acetic acid (0.152 g, 1 mmol) in anhydrous toluene (5 mL) was heated at 80° C. and N,N-dimethyl formamide-di-t-butyl acetal (1 mL, 4.17 mmol) was added when the solution became homogenous. After 0.5 h, the reaction mixture was cooled to ambient temperature and the volatiles were distilled off in vacuo. The residue was diluted with water and extracted with diethyl ether (×2). The combined organic extract was dried over anhydrous sodium sulfate, filtered and evaporated in vacuo to afford an oil which was subjected to flash column chromatography over silica gel (230-400 mesh) using 16% ethyl acetate in hexane as the eluent to afford the title compound as a solid (0.11 g, 56%).

reactant | 4-hydroxy-phenyl acetic acid | 1 mmol, 0.152 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | N,N-dimethyl formamide-di-t-butyl acetal | 4.17 mmol, 1 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 4-Hydroxy phenyl acetic acid-t-butyl ester | 0.11 g, 56% | C(C)(C)(C)OC(CC1=CC=C(C=C1)O)=O | C12H16O3
